data/oMe_Silver.jsonl
{"reaction_id": "NR-323_1-CC_2-C_3-C_4-c1ccccc1_5-c1ccccc1_6-CCCC(C)C","level": "easy","name": "Wittig Rearrangement-[2,3]","reactants_smiles": ["C(CC)(C)=C(C)C(c1ccccc1)(c1ccccc1)OCCCCC(C)C","CCCC[Li]"],"products_smiles": ["OC(CCCC(C)C)C(CC)(C)C(C)=C(c1ccccc1)(c1ccccc1)"],"conditions": "1. Strong Base (e.g., n-BuLi); 2. H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(C)=C(C)C(c1ccccc1)(c1ccccc1)O[CH-]CCCC(C)C","step_weight": 0,"rationale": "n-BuLi, a strong base, abstracts the relatively acidic α-proton adjacent to oxygen due to inductive electron withdrawal and stabilization of the resulting alkoxide by oxygen."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "[O-]C(CCCC(C)C)C(CC)(C)C(C)=C(c1ccccc1)(c1ccccc1)","step_weight": 0,"rationale": "The alkoxide undergoes a [2,3]-sigmatropic rearrangement, favored by orbital symmetry and relief of electron density through concerted bond reorganization, forming a more stable carbon–carbon bond adjacent to oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(CCCC(C)C)C(CC)(C)C(C)=C(c1ccccc1)(c1ccccc1)","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation in protic conditions."}],"description": "A strong base deprotonates the α-position to oxygen, generating an alkoxide that undergoes a concerted [2,3]-sigmatropic rearrangement. This rearrangement shifts the carbon framework, forming a new C–C bond. Subsequent protonation yields the rearranged alcohol product."}
{"reaction_id": "NR-331_1-c1ccc(OC)cc1_2-c1ccc(OC)cc1_3-c1ccccc1_4-C(C)(C)C_5-CC(C)C","level": "easy","name": "Reformatsky Reaction","reactants_smiles": ["C(Br)(c1ccc(OC)cc1)(c1ccccc1)C(=O)Oc1ccc(OC)cc1","O=C(C(C)(C)C)CC(C)C","[Zn]"],"products_smiles": ["C(C(O)(C(C)(C)C)CC(C)C)(c1ccc(OC)cc1)(c1ccccc1)C(=O)Oc1ccc(OC)cc1"],"conditions": "1. Zn dust; 2. Aqueous workup","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1ccc(OC)cc1OC(=O)C(c1ccc(OC)cc1)(c1ccccc1)[Zn]Br","step_weight": 0,"rationale": "Zinc undergoes oxidative addition into the C–Br bond due to the electrophilicity of the α-carbon adjacent to the ester carbonyl, forming a stabilized organozinc species that is less reactive than a Grignard reagent."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C([O-])(C(C)(C)C)CC(C)C)(c1ccc(OC)cc1)(c1ccccc1)C(=O)Oc1ccc(OC)cc1.[Zn+2].[Br-]","step_weight": 0,"rationale": "The organozinc reagent acts as a soft nucleophile, attacking the electrophilic carbonyl carbon of the aldehyde; the ester group remains intact due to the mild nucleophilicity of zinc enolates."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(O)(C(C)(C)C)CC(C)C)(c1ccc(OC)cc1)(c1ccccc1)C(=O)Oc1ccc(OC)cc1","step_weight": 0,"rationale": "Aqueous workup protonates the alkoxide intermediate, driven by the strong thermodynamic preference for neutral alcohol formation under acidic or neutral conditions."}],"description": "Zinc inserts into the α-bromo ester via oxidative addition, forming an organozinc reagent. This nucleophilic species adds to the aldehyde, generating an alkoxide intermediate. Aqueous workup protonates the alkoxide, yielding the β-hydroxy ester product characteristic of the Reformatsky reaction."}
